US08097759B2
5-Bromo-N-(3,4-dichlorophenyl)-2-hydroxybenzamide (Compound No. 143)
Using 5-bromosalicylic acid and 3,4-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 5-Bromo-N-(3,4-dichlorophenyl)-2-hydroxybenzamide | Yield: 58.2% | BrC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)C1)O | C13H8BrCl2NO2
